US08609656B2
In 100 mL of methanol, 2.64 g (20 mmol) of 5-aminoindole was dissolved, and 4.15 mL (30 mmol) of triethylamine and 5.23 g (24 mmol) of Boc2O were added thereto and the mixture solution was stirred at room temperature for six hours. The reaction solution was concentrated under reduced pressure, and the residue was partitioned with ethyl acetate (200 mL) and water (100 mL), and the organic layer was washed with a saturated sodium chloride solution. The organic layer was dried and then concentrated under reduced pressure, and the residue was partitioned between ethyl acetate (200 mL) and water (100 mL) and the organic layer was washed with a saturated sodium chloride solution. The organic layer was dried and then concentrated under reduced pressure, and the residue was purified by a silica gel column (Wako Gel C200: 300 g, n-hexane:ethyl acetate=4:1) to obtain 4.38 g (94%) of (1H-indol-5-yl)carbamic acid tert-butyl ester as a white solid.

reactant | 5-aminoindole | 20 mmol, 2.64 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | triethylamine | 30 mmol, 4.15 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 24 mmol, 5.23 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 100 mL | CO | CH4O
product | (1H-indol-5-yl)carbamic acid tert-butyl ester | 4.38 g, 94% | C(C)(C)(C)OC(NC=1C=C2C=CNC2=CC1)=O | C13H16N2O2
